US07622583B2
To a stirred solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (8.26 g, 16.6 mmol) in anhydrous THF (50 mL) was added 2 M isopropylmagnesiumchloride in THF (18.4 mL, 36.8 mmol) at −40 ° C. It was then warmed to 0° C. and stirred at the same temperature for 30 minutes and then N-Methoxy-N-methyl-2-methylsulfanyl-benzamide (10.5 g, 49.8 mmol) was added in and the progress of the reaction was followed by LCMS. The reaction mixture was warmed to room temperature and stirred overnight (18 h). It was then quenched with saturated aqueous NH4Cl (2 mL), and extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography to provide 4-chloro-N-[5-chloro-2-(2-methylsulfanyl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide. Mass spectrum m/z: 486.9 (M+Na).

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 16.6 mmol, 8.26 g | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesiumchloride | 2 M | C(C)(C)[Mg]Cl
reactant | N-Methoxy-N-methyl-2-methylsulfanyl-benzamide | 49.8 mmol, 10.5 g | CON(C(C1=C(C=CC=C1)SC)=O)C | C10H13NO2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 36.8 mmol, 18.4 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-[5-chloro-2-(2-methylsulfanyl-benzoyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)SC)=O)C(F)(F)F | C22H17Cl2F3N2O4S2
